US07576074B2
N-(3,4-dichlorophenyl)-6-(methyloxy)-7-({[2-[(4-methylpiperazin-1-yl)methyl]-1,3-thiazol-4-yl]methyl}oxy)quinazolin-4-amine
1-{[4-(Chloromethyl)-1,3-thiazol-2-yl]methyl}-4-methylpiperazine hydrochloride (0.067 g, 0.238 mmol) and 4-[(3,4-dichlorophenyl)amino]-6-(methoxy)quinazolin-7-ol (0.080 g, 0.238 mmol) were suspended in DMF (4 mL) and potassium carbonate (0.164 g, 1.19 mmol) was added. The mixture was stirred at 70° C. for 21 h. The reaction mixture was concentrated in vacuo and the residue was purified by reverse phase HPLC to afford the title compound as a colorless solid (0.025 g, 0.046 mmol, 19% yield). 1H NMR (400 MHz; CDCl3): 2.08 (s, 5H); 2.39 (s, 3H); 2.59-2.74 (m, 6H); 3.44-3.78 (m, 5H); 3.86 (s, 2H); 3.98 (s, 3H); 5.30 (s, 2H); 7.10 (s, 1H); 7.33 (s, 1H); 7.37 (s, 1H); 7.43 (d, 1H); 7.61 (dd, 1H); 7.99 (d, 1H); 8.60 (s, 1H); MS (EI) for C25H26Cl2N6O2S: 545 (MH+).

reactant | 1-{[4-(Chloromethyl)-1,3-thiazol-2-yl]methyl}-4-methylpiperazine hydrochloride | 0.238 mmol, 0.067 g | Cl.ClCC=1N=C(SC1)CN1CCN(CC1)C
reactant | 4-[(3,4-dichlorophenyl)amino]-6-(methoxy)quinazolin-7-ol | 0.238 mmol, 0.080 g | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)O | C15H11Cl2N3O2
reactant | potassium carbonate | 1.19 mmol, 0.164 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(3,4-dichlorophenyl)-6-(methyloxy)-7-({[2-[(4-methylpiperazin-1-yl)methyl]-1,3-thiazol-4-yl]methyl}oxy)quinazolin-4-amine | 0.046 mmol, 0.025 g, 19% yield | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1N=C(SC1)CN1CCN(CC1)C | C25H26Cl2N6O2S
